US05051422
N-[[4-(2,6-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]-N-(2-propenyl)benzenesulfonamide
In a manner similar to Preparation 3, react 4-(2,6-dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(2-propenyl)-2-piperazinemethanamine with 4-[(methylsulfonyl)amino]benzenesulfonyl chloride to obtain the title compound.

reactant | 4-(2,6-dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(2-propenyl)-2-piperazinemethanamine | ClC1=C(C(=CC=C1)Cl)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CNCC=C | C23H29Cl2N3O2
reactant | 4-[(methylsulfonyl)amino]benzenesulfonyl chloride | CS(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C7H8ClNO4S2
product | N-[[4-(2,6-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]-N-(2-propenyl)benzenesulfonamide | ClC1=C(C(=CC=C1)Cl)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CN(S(=O)(=O)C1=CC=C(C=C1)NS(=O)(=O)C)CC=C | C30H36Cl2N4O6S2
